US07807700B2
2-((1S,2S,4R)-Bicyclo[2.2.1]hept-2-ylamino)-8-oxa-1-thia-3-azaspiro[4.5]dec-2-en-4-one
To the mixture of 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)thiazol-4(5H)-one (840 mg, 4.0 mmol) in THF (5.0 mL) was added LDA (2.0 M, 20 mL) at −78° C. The resulting mixture was stirred for 10 min at −78° C., and then 1-bromo-2-(2-bromoethoxy)ethane (3.71 g, 16 mmol) was added. The mixture was allowed to warm to room temperature and then stirred overnight. A sat'd solution of NaH2PO4 was added, and it was extracted with EtOAc. The organic layer was washed with sat'd NH4Cl, dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified through flash chromatography (4:1:0.05; CH2Cl2/EtOAc/MeOH) to give the title compound as off-white solid. MS (ES+): 281 (M+H)+.

reactant | 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)thiazol-4(5H)-one | 4.0 mmol, 840 mg | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SCC(N2)=O | C10H14N2OS
reactant | LDA | 2.0 M, 20 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 16 mmol, 3.71 g | BrCCOCCBr | C4H8Br2O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 2-((1S,2S,4R)-Bicyclo[2.2.1]hept-2-ylamino)-8-oxa-1-thia-3-azaspiro[4.5]dec-2-en-4-one | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC1(C(N2)=O)CCOCC1 | C14H20N2O2S
